US09145354B2
Step 4 A mixture of crude 3-{(R)-1-[4-Chloro-2-fluoro-3-(pyridine-3-carbonyl)-phenyl]-propylamino}-2,2-dimethyl-propionic acid isobutyl ester (assumed 1.15 mmol), NaOH (aq., 5M, 230 μL. 1.15 mmol) and THF (3 mL) was stirred at room temperature overnight. Only partial reaction. A further 1 eq. of NaOH was added, stirred for 8 h, and then another 2 eq. NaOH added and stirred overnight. LCMS: [MH]+ 393, 73%. Concentrated to give crude 3-{(R)-1-[4-Chloro-2-fluoro-3-(pyridine-3-carbonyl)-phenyl]-propylamino}-2,2-dimethyl-propionic acid and used directly in next reaction.

reactant | 3-{(R)-1-[4-Chloro-2-fluoro-3-(pyridine-3-carbonyl)-phenyl]-propylamino}-2,2-dimethyl-propionic acid isobutyl ester | 1.15 mmol | C(C(C)C)OC(C(CN[C@H](CC)C1=C(C(=C(C=C1)Cl)C(=O)C=1C=NC=CC1)F)(C)C)=O | C24H30ClFN2O3
reactant | NaOH | 1.15 mmol, 5M, 230 μL | [OH-].[Na+]
reactant | NaOH | 1 eq. | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-{(R)-1-[4-Chloro-2-fluoro-3-(pyridine-3-carbonyl)-phenyl]-propylamino}-2,2-dimethyl-propionic acid | ClC1=C(C(=C(C=C1)[C@@H](CC)NCC(C(=O)O)(C)C)F)C(=O)C=1C=NC=CC1 | C20H22ClFN2O3
